Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Polytrauma s/p pedestrian struck 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ who was walking across a cross walk when an 
SUV driver suddenly turned without using the indicator light and 
struck her at a slow speed, but with enough force to knock her 
to the ground.  She was close to the sidewalk at the time.  She 
remembers the entire incident, denies headstrike or LOC.  She 
was feeling well beforehand and did not have any vision changes,
dizziness or pre-syncope.  She typically walks every day and 
this was part of her normal routine. She complains of left hip 
and shoulder pain.  Denies abdominal pain.

 
Past Medical History:
Past Medical History: HTN, HLD, mild cognitive impairment,
osteopenia

Past Surgical History: c sections x 2

 
Social History:
___
___:
Noncontributory

 
Physical Exam:
Admission Physical Exam:

Vitals: 98.2 62 137-75 18 99%RA
GEN: A&O, NAD
HEENT: NC/AT, no scleral icterus, mucus membranes moist, L
clavicle tender to palpation with overlying edema and 
ecchymosis,
no oropharyngeal or nasal bleeding
CV: RRR, No M/G/R, no chest wall tenderness
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused
PELVIS: no instability noted
NEURO: strength and motor grossly intact 

Discharge Physical Exam: 
 
Pertinent Results:
Imaging: 

___: CT Chest:

1. Focal linear hypodensity along the periphery of the anterior 
right hepatic lobe may reflect a mildly dilated intrahepatic 
biliary duct. 
2. Comminuted, mildly anteriorly displaced proximal left 
clavicular fracture.  No osseous injury of the left glenohumeral 
or acromioclavicular joint is seen. 
3. Mildly displaced fracture of the left inferior pubic ramus. 
4. Mildly displaced comminuted fracture of the left anterior 
acetabular column with slight extension to the left superior 
pubic ramus. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female who presented to ___ on 
___ s/p pedestrian struck by motor vehicle.  She had a CT 
torso which revealed a left clavicular fracture, a left 
acetabular superior & inferior rami fracture as well as a 
possible liver laceration.  She was admitted to the Trauma/Acute 
Care Surgery service for further medical management. 

On HD1, the Orthopaedics team was consulted and recommended 
weight bearing as tolerated and range of motion as tolerated on 
her LLE.  They also recommended weight bearing as tolerated for 
ADLs in LUE and a sling for comfort. Both her left clavicle and 
left acectabular fractures are non-operative. 

On H2, the patient was noted to have symptomatic pauses, sinus 
arrest and junctional escape with resumption of sinus beats. The 
EP service was consulted and recommended the patient wear ___ 
of Hearts Monitor for 3 days when discharge to rehab.  They also 
recommended holding atenolol and that the patient receive and 
outpatient sleep study. The patient's primary care provider was 
contacted and made aware of this information. 

The remainder of the ___ hospital course is summarized by 
systems below:

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with PO pain medicine once 
tolerating a diet. 

CV: Please see above documentation; vital signs were routinely 
monitored. The patient remained hemodynamically stable. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient tolerated a regular diet. Patient's 
intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. A follow-up appointment was 
scheduled with the ___ clinic. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 20 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Memantine 10 mg PO DAILY 
4. Donepezil 20 mg PO QHS 

 
Discharge Medications:
1. Atenolol 20 mg PO DAILY 
2. Donepezil 20 mg PO QHS 
3. Memantine 10 mg PO DAILY 
4. Simvastatin 10 mg PO QPM 
5. Acetaminophen 650 mg PO TID 
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*30 Tablet Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left high superior pubic ramus fracture which does not extend 
into the weight bearing dome of the acetabulum, inferior ramus 
fracture, and proximal clavicle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You presented to the ___ after 
sustaining injuries from a collision with a motor vehicle. You 
were admitted to the Trauma/Acute Care Surgery team for further 
medical management.

You were found to have a left high superior pubic ramus fracture 
and left inferior ramus fracture as well as a left clavicle 
fracture.  Your injuries were were evaluated by orthopedic 
surgery and recommended conservative treatment without surgical 
intervention. 

The Orthopaedics team recommended that you follow up in their 
clinic 2 weeks after discharge. You may walk as tolerated and 
bear weight in your left arm as tolerated. You may wear an arm 
sling for comfort and your left arm may come out of sling to use 
walker, work with Physical and Occupational Therapy. 

You are tolerating a regular diet, have worked with Physical and 
Occupational Therapy and your pain is better controlled.  You 
are now medically cleared to be discharged to a rehabilitation 
center to continue your recovery.  Please note the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___